US04629794
1-(N-Carbobenzoxy indol-3-yl)ethanol
Lithium aluminum hydrode (1.2 g, 32 mmol) was suspended in tetrahydrofuran (100 ml) and cooled to -78° C. N-Carbobenzoxy-3-acetyl indole (19.3 g, 66 mmol) dissolved in tetrahydrofuran (200 ml) was added over 0.5 hr. and the reaction mixture was allowed to stir at -78° C. for 0.5 hr and then at 0° C. for 0.5 hr. Ether (300 ml) was added and the mixture was quenched with 1.2 ml H2O, 1.2 ml 2N NaOH, adn 3.6 ml and H2O. The mixture was filtered through celite, dried over MgSO4 and evaporated leaving a solid. The solid was dissolved in 50 ml hot ether and then hexane was added (300 ml). The resulting crystals were collected to afford 12.5 g (64% yield): mp 79°-80° C., which was identical with the material prepared above in procedure A.

reactant | Lithium aluminum | [Al].[Li]
reactant | N-Carbobenzoxy-3-acetyl indole | 66 mmol, 19.3 g | C(=O)(OCC1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(C)=O | C18H15NO3
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | Ether | 300 ml | CCOCC | C4H10O
product | 1-(N-Carbobenzoxy indol-3-yl)ethanol | 64% yield | C(=O)(OCC1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(C)O | C18H17NO3
